US05439928
d) 4-(4,4-diphenylbutyl)-1H-imidazole
1-benzyl-5-(4,4-diphenylbutyl)-1H-imidazole hydrochloride (0,6 g) is hydrogenated in the mixture of 20 ml of 2N hydrochloric acid and 10 ml of ethanol at 80° C. Pd/C (10%) as catalyst. When the uptake of the hydrogen ceases, the reaction mixture is cooled, filtered and evaporated to dryness. Water is added and the mixture is made alkaline with sodium hydroxide. The product is then extracted to methylene chloride which is washed with water, dried with sodium sulphate and evaporated to dryness. The residue is the product as base and it is made to its hydrochloride in ethyl acetate using dry hydrochloric acid. Yield 0,2 g. M.p. 204°-206° C.

reactant | 1-benzyl-5-(4,4-diphenylbutyl)-1H-imidazole hydrochloride | 0,6 g | Cl.C(C1=CC=CC=C1)N1C=NC=C1CCCC(C1=CC=CC=C1)C1=CC=CC=C1
reactant | hydrochloric acid | 2N, 20 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(4,4-diphenylbutyl)-1H-imidazole | C1(=CC=CC=C1)C(CCCC=1N=CNC1)C1=CC=CC=C1 | C19H20N2
